US04994486
Step 2: [1R,3S] 3,4-Dihydro-5-hydroxy-1-nitromethyl-3-phenyl-1H-2-benzopyran
A solution of 135 mg (0.4 mmol) of [1R,3S] 3,4-dihydro-5-methoxymethoxy-1-nitromethyl-3-phenyl-1H-2-benzopyran, from Step 1, in 5 mL of methanol was saturated with anhydrous hydrogen chloride. The resultant mixture was stirred at reflux temperature for 2 h and then concentrated in vacuo. The residue was purified on silica gel eluted with 5% methanol in methylene chloride to afford 75 mg (66% yield) of the title compound.

reactant | [1R,3S] 3,4-dihydro-5-methoxymethoxy-1-nitromethyl-3-phenyl-1H-2-benzopyran | 0.4 mmol, 135 mg | COCOC1=CC=CC2=C1C[C@H](O[C@H]2C[N+](=O)[O-])C2=CC=CC=C2 | C18H19NO5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | [1R,3S] 3,4-Dihydro-5-hydroxy-1-nitromethyl-3-phenyl-1H-2-benzopyran | 75 mg, 66% yield | OC1=CC=CC2=C1C[C@H](O[C@H]2C[N+](=O)[O-])C2=CC=CC=C2 | C16H15NO4
